US06022527
(Compound A) 5-Methyluridine 5'-diphosphate
5-Methyluridine 5'-triphosphate (0.0047 g, 0.009 mMol) was dissolved in 0.7 mL 1M Tris buffer (pH 8.5 containing 1M MgCl2) then 0.3 mL of a 0.25M glucose solution in 1M Tris buffer (pH 8.5 containing 1M MgCl2) added. A T0 timepoint was taken by reverse phase anion exchange HPLC. Hexokinase (EC 2.7.1.1, Boehringer Mannheim, from yeast overproducer), 75 units in 3.2M ammonium sulfate suspension, was added to the reaction which was incubated at 25° C. An HPLC was taken at 66 hours indicating complete conversion to diphosphate with no triphosphate remaining. Triphosphate retention: 17.5 minutes; diphosphate retention: 10.3 minutes.

reactant | 5-Methyluridine 5'-triphosphate | 0.009 mMol, 0.0047 g | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)O)O | C10H17N2O15P3
reactant | glucose | 0.25M | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | diphosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-]
reactant | triphosphate | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-]
solvent | Tris | 1M, 0.7 mL, pH 8.5 | C(C(CO)(CO)N)O | C4H11NO3
solvent | Tris | 1M, pH 8.5 | C(C(CO)(CO)N)O | C4H11NO3
solvent | ammonium sulfate | 3.2M | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | 5-Methyluridine 5'-diphosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)O)O | C10H16N2O12P2
